US04666923
(c) 3-Ethoxycarbonyl-3-methyl-6-(4-pyridinoylamino)-indolin-2-one
22.1 ml. Triethylamine and 9.4 g. (0.053 mol) pyridine-4-carboxylic acid chloride hydrochloride are added to a cooled solution of 13 g. (0.048 mol) 6-amino-3-ethoxycarbonyl-3-methylindolin-2-one in 500 ml. methylene chloride and the reaction mixture then stirred at ambient temperature for about 2 hours. Subsequently, the reaction mixture is evaporated to dryness and the residue is stirred with water, filtered with suction and the product obtained is recrystallised from ethanol/methylene chloride. Yield: 11.9 g. (73% of theory); m.p. 222°-224° C.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | pyridine-4-carboxylic acid chloride hydrochloride | 0.053 mol | Cl.N1=CC=C(C=C1)C(=O)Cl
reactant | 6-amino-3-ethoxycarbonyl-3-methylindolin-2-one | 0.048 mol | NC1=CC=C2C(C(NC2=C1)=O)(C)C(=O)OCC | C12H14N2O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Ethoxycarbonyl-3-methyl-6-(4-pyridinoylamino)-indolin-2-one | C(C)OC(=O)C1(C(NC2=CC(=CC=C12)NC(=O)C1=CC=NC=C1)=O)C | C18H17N3O4
